US03954764
1.0 G. of 3-{2-[4-(8-chloro-2-methyl-dibenzo[b,f]thiepin10-yl)-1-piperazinyl]-ethyl}-2-oxazolidinone is stirred at room temperature with 50 ml. of diethyleneglycol dimethyl ether (diglyme) and 0.6 g. of sodium borohydride for 30 minutes under an atmosphere of argon. Thereafter, a solution of 2.8 g. of oxalic acid (C2H2O4 . 2H2O) in 15 ml. of diglyme is added dropwise at 20°-30°C. The mixture is stirred at 100°C. for 4 hours, and subsequently evaporated under reduced pressure. The residue is taken up in 2N sodium hydroxide and water, and extracted three times with 100 ml. of benzene each time. The combined benzene phases are washed with water, dried over magnesium sulfate, filtered and concentrated. The crystalline residue is recrystallized from ethyl acetate/petroleum ether (low boiling), whereby there is obtained 3-{2-[4-(8-chloro-10,11-dihydro-2-methyl-dibenzo[b,f]thiepin-10-yl)-1-piperazinyl]-ethyl}-2-oxazolidinone, having a melting point of 184°-186°C. The maleate crystallizes from methanol/ether and melts at 174°-175°C.

reactant | 3-{2-[4-(8-chloro-2-methyl-dibenzo[b,f]thiepin10-yl)-1-piperazinyl]-ethyl}-2-oxazolidinone | ClC=1C=CC2=C(C(=CC3=C(S2)C=CC(=C3)C)N3CCN(CC3)CCN3C(OCC3)=O)C1 | C24H26ClN3O2S
reactant | sodium borohydride | [BH4-].[Na+]
reactant | oxalic acid | C(C(=O)O)(=O)O | C2H2O4
solvent | diglyme | COCCOCCOC | C6H14O3
product | 3-{2-[4-(8-chloro-10,11-dihydro-2-methyl-dibenzo[b,f]thiepin-10-yl)-1-piperazinyl]-ethyl}-2-oxazolidinone | ClC=1C=CC2=C(C(CC3=C(S2)C=CC(=C3)C)N3CCN(CC3)CCN3C(OCC3)=O)C1 | C24H28ClN3O2S
